US05344828
Ethyl 4-(2-Chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazinepropionate
A mixture of 3.30 g of 2-chloro-11-(1-piperazinyl)dibenzo[b,f][1,4]thiazepine and 1.20 g of ethyl acrylate in 17 ml of ethanol was refluxed for 3 hrs. The reaction mixture was concentrated and the residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (1:1) as an eluent to give 4.04 g of yellow crystals, which were recrystallized from isopropyl ether to give colorless needles, mp 79°-80° C.

reactant | 2-chloro-11-(1-piperazinyl)dibenzo[b,f][1,4]thiazepine | 3.30 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCNCC3)C1 | C17H16ClN3S
reactant | ethyl acrylate | 1.20 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | Ethyl 4-(2-Chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazinepropionate | 4.04 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)CCC(=O)OCC)C1 | C22H24ClN3O2S
